US08067406B2
Production of 1-(2-(2-(1-benzothiophene-5-yl)ethoxy)ethyl)-3-azetidinol
1.20 g of 2-(2-(1-benzothiophene-5-yl)ethoxy)acetic acid was dissolved in 12 ml of methylene chloride. Thereafter, 2.3 ml of triethylamine and 0.38 g of imidazole were added to the obtained solution, and the mixture was then cooled to 5° C. Thereafter, 0.41 ml of thionyl chloride was added dropwise thereto, and the obtained mixture was stirred at the same above temperature for 1 hour. The reaction mixture was cooled to −60° C., and thereafter, 0.82 ml of triethylamine and 0.72 g of 3-azetidinol hydrochloride were added thereto. The mixture was stirred at the same above temperature for 1 hour and then at a room temperature for 1.5 hours. Thereafter, water was added to the reaction mixture, and the pH thereof was adjusted to pH 1.0 by addition of 6 mol/l hydrochloric acid. Thereafter, an organic layer was separated. The organic layer was washed with a saturated saline solution and then dried over anhydrous magnesium sulfate. The solvent was distilled away under a reduced pressure, so as to obtain a yellow oil product, 2-(2-(1-benzothiophene-5-yl)ethoxy)-1-(3-hydroxy-1-azetidinyl)-1-ethanone. (2) The above 2-(2-(1-benzothiophene-5-yl)ethoxy)-1-(3-hydroxy-1-azetidinyl)-1-ethanone was dissolved in 12 ml of tetrahydrofuran, and the obtained solution was cooled to 5° C. Thereafter, 12.7 ml of a tetrahydrofuran solution containing a 1 mol/l borane-tetrahydrofuran complex was added dropwise thereto, and the obtained mixture was stirred at a room temperature for 17 hours. Thereafter, 10 ml of acetone was added to the reaction mixture, and the obtained mixture was then stirred for 30 minutes. Thereafter, 6.0 ml of 6 mol/l hydrochloric acid was added thereto, followed by heating to reflux for 2 hours. The reaction solution was cooled, and water and ethyl acetate were added to the reaction mixture. The pH thereof was adjusted to pH 13 by addition of a 2 mol/l aqueous sodium hydroxide solution, and an organic layer was then separated. The organic layer was washed with a saturated saline solution and then dried over anhydrous magnesium sulfate. The solvent was distilled away under a reduced pressure, so as to obtain 1.13 g of a yellow oil product, 1-(2-(2-(1-benzothiophene-5-yl)ethoxy)ethyl)-3-azetidinol.

reactant | 2-(2-(1-benzothiophene-5-yl)ethoxy)-1-(3-hydroxy-1-azetidinyl)-1-ethanone | S1C=CC2=C1C=CC(=C2)CCOCC(=O)N2CC(C2)O | C15H17NO3S
reactant | acetone | 10 ml | CC(=O)C | C3H6O
reactant | hydrochloric acid | 6 mol/l, 6.0 ml | Cl | ClH
reactant | sodium hydroxide | 2 mol/l | [OH-].[Na+]
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 12.7 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 1-(2-(2-(1-benzothiophene-5-yl)ethoxy)ethyl)-3-azetidinol | 1.13 g | S1C=CC2=C1C=CC(=C2)CCOCCN2CC(C2)O | C15H19NO2S
